*****************************************************************
* NXP 2N7002P
*
* Polarity N-Channel
* Ratings 60V/1.28E+00OHMS/0.5A
*
* Date Created Thu May 27 02:15:13 2010
*
*****************************************************************
* Model Generated by Transim Technology
*           Copyright(c) 2004
*         All Rights Reserved
*    UNPUBLISHED LICENSED SOFTWARE
*           www.transim.com
*
* Contains Proprietary Information Which
* is The Property of Transim or it's licensees.
*
* Commercial Use or Resale Restricted by
* Transim License Agreement.
*
*****************************************************************

.SUBCKT 2N7002P DRAIN GATE SOURCE

LD DRAIN 5 4e-10
RLD2 DRAIN 5 1.0053088
RLD1 5 4 0.0023
LG GATE 1 8.81711084834576e-10
RLG GATE 1 2.21597978160436
LS SOURCE 8 1.26727771949329e-09
RLS2 SOURCE 8 3.18501360862634
RLS1 8 7 0.0467180319746777

RDS 7 4 1200000000 TC=-0.05

RS 6 7 0.0001

RD 3 4 0.980671261025198 TC=0.00841797105604977,-1.47003132601411e-05
RBD 9 4 0.12 TC=0.005,2.19e-05
DBD 7 9 DBD

M1 3 2 6 6 MINT

RGS 2 6 1000000000000
CGS 2 6 3e-11
RG 1 2 0.947048638971317

* CGD
C11    11   12   1E-12
V11    11   0   0Vdc
G11    3 2 VALUE { V(13, 0)*I(V11) }
E11    12   0  3 2  1
E12    13   0  TABLE {V(12)}
+ -10	43
+ -5	40
+ -4	39
+ -3	33
+ -2	24
+ -1	21
+ -0.5	17
+ -0.2	15
+ -0.1	15
+ 0	13.85
+ 0.1	12.61
+ 0.2	12.15
+ 0.5	9.80
+ 1	7.82
+ 2	6.25
+ 5	4.70
+ 10	3.74
+ 12	3.52
+ 20	2.80
+ 25	2.58
+ 29.6	2.42



.MODEL MINT NMOS(Vto=1.975 Kp=1.0 Nfs=300000000000 Eta=1000
+ Level=3 L=1e-4 W=1e-4 Gamma=0 Phi=0.6 Is=1e-24
+ Js=0 Pb=0.8  Cj=0 Cjsw=0 Cgso=0 Cgdo=0 Cgbo=0
+ Tox=1e-07 Xj=0  
+ U0=600 Vmax=1000)

.MODEL DBD D(Bv=80.00 Ibv=1.00E-05 Rs=1E-6 Is=5e-15
+ N=1 M=0.5 VJ=0.5 Fc=0.5 Cjo=9.64e-12 Tt=3e-08)

.ENDS















